* Components
* NMOS Transistor
? Missing component
* Capacitors
CGD1 2 4  CGD1_value
CL 3 0  CL_value
* Resistors
R01R03 4 3  R_value
* Voltage Source
Vin1 1 0  Vin1_value
* Nodes
* 1 - Vin1
* 2 - Node between Vin1 and CGD1
* 3 - Node Vout1
* 4 - Node connection for M1, CGD1, and R01||R03
* 0 - Ground
.model NMOS NMOS_level
